US06194425B1
A catalytic amount of platinum oxide was added to a solution of 2-butyl-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,8]naphthyridin-4-amine (2.0 g, 6.2 mmole) in trifluoroacetic acid (30 mL). The reaction mixture was reduced on a Parr apparatus under 50 psi (3.5 Kg/cm2) hydrogen pressure. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under vacuum. The residue was combined with water, sodium bicarbonate and 10% sodium hydroxide. An oil was recovered and purified using reverse phase high performance liquid chromatography eluting with 30:70 buffer (7.68 g potassium phosphate, monobasic; 1.69 g of sodium hydroxide, 1 L of water):methanol to provide 2-butyl-6,7,8,9-tetrahydro-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,8]naphthyridin-4-amine hemihydrate as a solid, m.p. 81-84° C. Calculated for C17H27N5+½H2O: % C, 65.77; % H, 9.09; % N, 22.56; Found: % C, 65.57; % H, 9.15; % N, 22.53.

reactant | 2-butyl-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,8]naphthyridin-4-amine | 6.2 mmole, 2.0 g | C(CCC)C=1N(C2=C(C(=NC=3N=CC=CC23)N)N1)CC(C)C | C17H23N5
reactant | hydrogen | [H][H] | H2
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum oxide | [Pt]=O
product | 2-butyl-6,7,8,9-tetrahydro-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,8]naphthyridin-4-amine hemihydrate | O.C(CCC)C=1N(C2=C(C(=NC=3NCCCC23)N)N1)CC(C)C.C(CCC)C=1N(C2=C(C(=NC=3NCCCC23)N)N1)CC(C)C | InChI=1S/2C17H27N5.H2O/c2*1-4-5-8-13-20-14-15(22(13)10-11(2)3)12-7-6-9-19-17(12)21-16(14)18;/h2*11H,4-10H2,1-3H3,(H3,18,19,21);1H2
